US04640915
A mixture of 4-nitrobenzyl 2-diazo-4-[(2R,3R)-3-(1-methoxy-1-methylethyl)-4-oxoazetidin-2-yl]-3-oxobutanoate (707 mg) and rhodium (II) acetate (ca. 5 mg) in benzene (20 ml) was refluxed for 30 minutes. After cooling to ambient temperature, the mixture was filtered through cellulose powder. The filtrate was evaporated to give 4-nitrobenzyl (2R,5R,6R)-3,7-dioxo-6-(1-methoxy-1-methylethyl)-1-azabicyclo[3.2.0]heptane-2-carboxylate (680 mg).

reactant | 4-nitrobenzyl 2-diazo-4-[(2R,3R)-3-(1-methoxy-1-methylethyl)-4-oxoazetidin-2-yl]-3-oxobutanoate | 707 mg | [N+](=[N-])=C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C[C@H]1NC([C@H]1C(C)(C)OC)=O)=O | C18H20N4O7
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
catalyst | rhodium (II) acetate | ca. 5 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
product | 4-nitrobenzyl (2R,5R,6R)-3,7-dioxo-6-(1-methoxy-1-methylethyl)-1-azabicyclo[3.2.0]heptane-2-carboxylate | 680 mg | O=C1[C@@H](N2C([C@H]([C@H]2C1)C(C)(C)OC)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C18H20N2O7
